US08217064B2
Ethyl 1-(6-amino-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate (1 g, 2.2 mmol) was dissolved in a mixture of MeCN/H2O/HCl 30 mL/30 mL/2 mL at 0° C. A solution of NaNO2 (0.200 g, 2.9 mmol) in water (10 mL) was added drop wise at 0° C., and the reaction mixture was stirred for 40 min, at the same temperature. A solution of CuCl (1.1 g, 11.1 mmol) in water (10 mL) was added drop wise at 0° C. The reaction mixture was heated to 90° C. for 2.0 h and the solvent was evaporated. The reaction mixture was extracted with EtOAc (3×50 mL), and the combined organic layers were washed with water (50 mL) followed by brine (50 mL). The solution was dried over Na2SO4, filtered and concentrated under reduced pressure to give an oil. The oil was purified by chromatography over silica gel (hexane/EtOAc) to give the ethyl 1-(6-chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylate (1.1 g) as yellow oil.

reactant | Ethyl 1-(6-amino-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate | 2.2 mmol, 1 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C23H23F6NO3
reactant | NaNO2 | 2.9 mmol, 0.200 g | N(=O)[O-].[Na+]
reactant | MeCN H2O HCl | 30 mL | CC#N.O.Cl
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | CuCl | 11.1 mmol, 1.1 g | Cl[Cu]
product | ethyl 1-(6-chloro-5-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentane carboxylate | 1.1 g | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC)OCC(F)(F)F | C23H21ClF6O3
